US07256198B2
Step 2: 3′,3′-Dimethyl-8′-vinyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole]
To the stirred solution of 8′-bromo-3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2- a]indole](2.576 g, 7.330 mmol) in dioxane (70 mL) was added tributyl (vinyl) tin (3.490 g, 10.995 mmol) and the solution was degassed with N2 for 15 min. Pd(PPh3) 4 was added and the mixture was stirred at 100° C. for 6 hr. The reaction was diluted with EtOAc, washed with brine and concentrated. The resulting residue was dissolved in EtOAc and stirred with 1M KF solution (20 mL) overnight. The reaction was filtered and the filtrate was washed with brine. The organics were dried over Na2SO4 and concentrated to give the title compound as white solid (1.720 g, 79%). NMR (400 Mz, DMSO-d6): consistent.

reactant | 8′-bromo-3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2- a]indole] | 7.330 mmol, 2.576 g | BrC1=CC=2C3(C=4N(C2C=C1)CC(CN4)(C)C)OCCCO3 | C16H19BrN2O2
reactant | tributyl (vinyl) tin | 10.995 mmol, 3.490 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | 3′,3′-Dimethyl-8′-vinyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] | 1.720 g, 79% | CC1(CN=C2N(C=3C=CC(=CC3C23OCCCO3)C=C)C1)C | C18H22N2O2
